US05245046
Into a solution of 3-trifluoromethylphenylacetic acid (20.0 g. 98 mmol) in MeOH (100 mL), cooled in an ice-water bath, was bubbled HCl (g) for 15 min. The mixture was allowed to warm to room temperature and was then concentrated in vacuo to furnish a clear, yellow-green liquid which was diluted with EtOAc (0.25L) and washed with saturated aqueous NaHCO3 (2×0.25L), brine (0.25L), and dried (Na2SO4). Concentration in vacuo provided the crude ester which was purified by chromatography on a column of silica gel(230-400 mesh, 600 g, 70 mm o.d., ethyl acetate-hexanes 10:90, 400 mL fractions) using the flash technique. Fractions 6-9 provided 19.08 g (89%) of methyl-3-trifluoromethylphenylacetate as a clear colorless liquid.

reactant | 3-trifluoromethylphenylacetic acid | 98 mmol, 20.0 g | FC(C=1C=C(C=CC1)CC(=O)O)(F)F | C9H7F3O2
reactant | MeOH | 100 mL | CO | CH4O
solvent | EtOAc | 0.25L | CCOC(=O)C | C4H8O2
product | methyl-3-trifluoromethylphenylacetate | 19.08 g, 89% | COC(CC1=CC(=CC=C1)C(F)(F)F)=O | C10H9F3O2
